US05580893
N-(2-Nitroxyethyl)-3-dimethylaminophenoxyacetamide (Exemplified compound No. 38)
Following a similar treatment to that in Example 2 and using 0.83 g of 3-dimethylaminophenoxyacetic acid and 0.60 g of nitroxyethylamine nitrate, 0.50 g of the title compound was obtained as pale yellow acicular prisms (solvent for recrystallization; diisopropyl ether).

reactant | 3-dimethylaminophenoxyacetic acid | 0.83 g | CN(C=1C=C(OCC(=O)O)C=CC1)C | C10H13NO3
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-3-dimethylaminophenoxyacetamide | 0.50 g | O([N+](=O)[O-])CCNC(COC1=CC(=CC=C1)N(C)C)=O | C12H17N3O5
